Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Verapamil / lisinopril
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
Nasogastric Tube placement for decompression due to SBO

 
History of Present Illness:
Mr. ___ is a pleasant ___ with PMH including renal cancer s/p 
R radial nephrectomy (___), PEs s/p embolectomy, IVC filter, on 
lifelong Coumadin, HTN, HLD, who presents with 1 day of 
abdominal discomfort. His pain had been crampy and primarily in 
the epigastric region, though at time of our exam he reports no
discomfort or any other complaints. +Anorexia. One episode of 
emesis in the ED, though no other emesis at home. Reports a BM 
yesterday (___) which was normal, and thinks he may have 
passed a little bit of flatus as well. He denies any other 
abdominal surgeries besides his radical nephrectomy. He has 
never
had a bowel obstruction in the past. In the ED, initial vitals 
were significant for tachycardia, which subsequently resolved on 
recheck. Remainder of his workup including CT scan and labs are 
as listed below.
 
Past Medical History:
- Hypertension
- Renal Ca s/p open radial R nephrectomy ___ (St. E's)
- PE with pulmonary embolectomy in ___ managed with Coumadin
- IVC filter placement
 
Social History:
___
Family History:
Non contributory.
 
Physical Exam:
Physical Exam on admission ___:
Vitals: T afeb, HR 88, BP 129/62, RR 18, SpO2 96% RA
GEN: A&O, NAD
HEENT: No scleral icterus, NGT in place with bilious drainage
CV: RRR. Healed sternotomy incision noted
PULM: No increased work of breathing
ABD: Soft, nondistended, nontender, absolutely no rebound or
guarding, no palpable masses
EXT: No ___ edema, ___ warm and well perfused

Physical Exam on date of discharge ___
VS: T 97.9, BP 132/69, HR 63, RR 18, O2Sat 95% RA
A&O x 3. NAD.
RRR. LS CTA Bilat.
Abd is soft/non tender, normo-active BS x 4 without palpable 
mass or guarding noted on exam.
PPP without ___ Edema. 

 
Pertinent Results:
___ 07:28AM BLOOD WBC-4.4 RBC-3.89* Hgb-14.1 Hct-43.3 
MCV-111* MCH-36.2* MCHC-32.6 RDW-12.8 RDWSD-53.4* Plt ___
___ 12:54AM BLOOD WBC-7.4 RBC-4.69 Hgb-17.1 Hct-50.3 
MCV-107* MCH-36.5* MCHC-34.0 RDW-13.0 RDWSD-51.7* Plt ___
___ 12:54AM BLOOD Neuts-80.7* Lymphs-10.6* Monos-6.9 
Eos-1.2 Baso-0.3 Im ___ AbsNeut-6.00 AbsLymp-0.79* 
AbsMono-0.51 AbsEos-0.09 AbsBaso-0.02
___ 07:28AM BLOOD ___
___ 12:54AM BLOOD ___ PTT-32.2 ___
___ 07:28AM BLOOD Glucose-87 UreaN-25* Creat-1.4* Na-143 
K-3.5 Cl-98 HCO3-32 AnGap-13
___ 12:54AM BLOOD Glucose-171* UreaN-30* Creat-1.6* Na-140 
K-4.6 Cl-97 HCO3-29 AnGap-14
___ 12:54AM BLOOD ALT-11 AST-28 CK(CPK)-119 AlkPhos-51 
TotBili-0.9
___ 07:28AM BLOOD Calcium-9.4 Phos-2.5* Mg-2.0
___ 08:09AM BLOOD Lactate-1.7
___ 03:24AM BLOOD Lactate-2.1*

ABD CT on ___
1. Findings suggestive of high-grade small bowel obstruction 
with a transition 
point in the right mid abdomen adjacent to a fecalized loop of 
distal 
jejunum/proximal ileum.  Scattered foci of dependently layering 
gas within the bowel loops as well as a tiny focus of gas within 
the SMV are concerning for pneumatosis.  No evidence of 
perforation. 
2. Multiple pulmonary nodules bilaterally measuring up to 5 mm 
in the left 
upper lobe are concerning for metastatic disease in the setting 
of known 
malignancy.  Recommend correlation with prior imaging or 
recommend a non 
urgent dedicated CT chest if no recent imaging is available. 
3. 4 mm left lower pole non-obstructing renal calculus. 

 
Brief Hospital Course:
___ year old male presented to the hospital with 'crampy' 
epigastric abdominal pain. Imaging including chest x-ray and 
abdominal cat scan were completed and and the patient was  
diagnosed with a small bowel obstruction.  A nasogastric tube 
was inserted for bowel decompression.  The nasogastric tube was 
displaced by the patient due to emesis. A KUB was completed and 
showed distended loops, therefore nasogastric tube was replaced 
for further decompression. 

The nasogastric tube was again dislodged but patient denied 
pain, nausea, vomiting, or distention and had return of bowel 
function. His diet was advanced to clear liquids and then to 
regular diet.

The patient was reportedly on Coumadin related to history of 
pulmonary embolism. Coumadin was held during his inpatient stay 
for possible surgical intervention and an INR of 4.0. Repeat INR 
on ___ was 3.1 and the patient was discharged on Coumadin 
1.5mg with plan for repeat INR in 24 hours by his provider.  The 
primary care provider and patient were in agreement of the plan.

At the time of discharge, the patient was tolerating a regular 
diet. His vital signs were stable and he was afebrile.  He had 
return of bowel and bladder function and was ambulatory.  The 
patient was  discharged home where he lives with his wife, 
without services and a plan to follow up with primary care 
provider on ___, ___.

OF NOTE:

Incidental finding on abdominal cat scan on ___ showed 
bilateral pulmonary nodules measuring up to 5mm in left upper 
lobe  concerning for metastatic disease, recommendation for non 
urgent follow up with re-imaging.  The patient and primary care 
provider were informed and a copy of the report was given to the 
patient. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Metoprolol Succinate XL 50 mg PO BID 
2. Warfarin Dose is Unknown  PO ASDIR 
3. Atorvastatin 20 mg PO QPM 
4. Aspirin 81 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
please do not exceed 3000mg in 24 hour period.  
2.  ___  MD to order daily dose PO ASDIR 
discharged on 1.5mg Coumadin, edu to follow up with PCP for 
further dosing instructions.   
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for abdominal pain with small 
bowel obstruction. You had a nasogastric tube placed which 
helped to decompress the stomach which was able to be removed 
after return of bowel function. Plan for discharge at this time 
with the following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 

 
Followup Instructions:
___